2202-09-02 07:29:00 Physician Resident Progress Note
Chief Complaint: 81 yof with PMH of right sided MCA ischemic stroke
   with residual left hemiparesis, COPD, Aflutter and partial gastrectomy
   for gastric cancer a/w altered mental status, concern for stroke,
   concern for AMI/NSTEMI and concern for pneumonia.  Patient is DNR/DNI
   confirmed by family.
   24 Hour Events:
   - No acute overnight events
   - Patient given gentle fluids, oxygen requirement weaned and patient
   underwent MR of head
   Allergies:
   Codeine
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2202-9-2**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-2**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 80 (72 - 92) bpm
   BP: 156/56(72) {97/47(65) - 156/66(78)} mmHg
   RR: 18 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.8 kg (admission): 44.7 kg
             Total In:
                                                                  2,200 mL
                                                                    344 mL
   PO:
             TF:
   IVF:
                                                                  2,200 mL
                                                                    344 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                    132 mL
   Urine:
                                                                    170 mL
                                                                    132 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,030 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///35/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   9.3 g/dL
   103 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.5 mEq/L
   23 mg/dL
   100 mEq/L
   139 mEq/L
   30.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2202-9-1**]  07:20 PM
                             [**2202-9-2**]  03:28 AM
   WBC
   9.6
   12.2
   Hct
   28.3
   30.6
   Plt
   247
   259
   Cr
   0.8
   0.7
   TropT
   0.50
   0.50
   Glucose
   119
   103
   Other labs: PT / PTT / INR:15.8/36.2/1.4, CK / CKMB /
   Troponin-T:91//0.50, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Microbiology
   - urine [**9-1**]
 pending
   - blood 10/7
 pending
   Imaging
   - CXR [**9-1**]
 small right pleural effusion with overlying atelectasis
   Assessment and Plan
   81 year old female with multiple medical problems including diastolic
   heart failure, atrial flutter, severe AS, COPD, and a previous right
   sided MCA stroke presenting with altered mental status and left sided
   deficits.
   Obtundation/Confusion: Patient's picture is most consistent for
   encephalopathy with waxing and [**Doctor Last Name 42**] consciousness and responsiveness
   as well as context in general medical illness.  Multiple possible
   etiologies for this patient's encephalopathy including most likely
   infection  versus CVA versus epileptiform activity versus ACS.  We will
   attempt to maximize her status by treating her probable pulmonary
   infection as continuing diagnostic work-up for CVA, epileptic event, or
   cardiac event.  Large intracranial hemorrhage ruled out by negative CT
   and large territory ischemic/embolic CVA would likely show some changes
   on CT.
   -Treat pneumonia (see below)
   -MRI/MRA neck of brain to evaluate for stroke, EEG to rule out
   non-convulsive status epilepticus (less likely)
   -Cycle cardiac enzymes
   2) Community Acquired Bacterial Pneumonia: Patient's daughter reported
   increased cough and respiratory distress at home and there does appear
   to be an infiltrate on chest radiograph.  Her oxygen requirement is
   worsened from baseline.    Last hospitalization was in [**5-/2202**] and the
   patient lives at home so no particularly high risks for respiratory
   pathogens.  Therefore, no clear need for extended coverage.  Patient
   received cefepime and levofloxacin in ED but will narrow to just
   levofloxacin unless signs of decompensation or reasons to suspect
   resistant organisms.
   -Levofloxacin 750 mg PO Q48hrs
   -Attempt to obtain sputum cultures if mental status resovles
   -Titrate oxygen to comfort and O2 sat between 92-94%
   3) Left sided weakness/hypertonicity: These deficits are concerning for
   a new embolic or ischemic stroke (hemorrhagic stroke essentially ruled
   out by CT w/o major deficits).  Patient has a history of Aflutter and
   not anticoagulated so always a threat of embolic event.  She could also
   have a large ischemic territory though a large event would likely show
   some changes on CT.  Other major possibility is that the patient is
   having epileptiform activity perhaps centered around an old area of
   ischemia or that she is simply recapitulating the deficits of her old
   stroke in the context of illness.
   -MRI when possible
   -EEG
   -ASA given possiblity of embolic stroke
   -Would ideally like blood pressure with systolics of 140-160 for brain
   perfusion but this is likely to be impossible to achieve given severe
   AS, will monitor blood pressures and attempt to prevent frank
   hypotension
   4) Chronic Diastolic Heart Failure/Severe AS: Patient currently
   appearing euvolemic.  Will hold home BP meds in context of allowing
   some autoregulation given possiblity of stroke but would be cautious if
   she becomes more hypertensive as this is likely to be poorly tolerated
   given AS.
   -Attempt to keep SBP's between 100-130 monitoring urine output and
   attempting to keep >130
   5) COPD: Patient appears to have emphysema by exam and radiograph and
   history of COPD.  Appears worsened in the context of probable pneumonia
   as oxygen requirement is increased.  ABG downstairs relatively benign,
   however, and patient's oxygen requirement has declined.
   -Continue ipratroprium and albuterol
   -recheck ABG later to make sure respiratory alkalosis is not worsening
   -treat pneumonia as above
   -not particularly wheezy now so will hold steroids for the moment (?
   COPD exacerbation) would consider if respiratory status continues to be
   major issue.
   6) Elevated troponin: Patient's ECG is not impressive for ACS and CK is
   normal suggesting no large territory infarct.  She was given aspirin
   downstairs but given threat of stroke that could convert to hemorrhagic
   would be cautious regarding systemic anticoagulation unless further
   evidence.  Also will hold BB given concern for low blood pressures and
   hypoperfusion of at risk area of CVA.
   -cycle enzymes, consider BB or systemic anticoagulation if rising CK's
   or hemodynamic instability
   -cardiology aware
   7) Borderline glucose intolerance: ISS w/ treatment for FSG >200.
   8) FEN: Very gentle IV fluids given history of AS and dCHF, NPO for now
   given mental status, recheck lytes this PM given Hypokalemia in ED
   (treated)
   9) PPx: Continue home PPI, SC heparin
   10) Code: DNR/DNI per daughter confirmed in [**Name (NI) **]
   11) Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2202-9-1**] 04:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2202-09-04 08:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt briefly became short of breath, responded to 2mg morphine and
   nebs.
   Allergies:
   Codeine
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2202-9-2**] 01:04 PM
   Azithromycin - [**2202-9-3**] 10:13 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2202-9-3**] 05:30 PM
   Enoxaparin (Lovenox) - [**2202-9-3**] 08:00 PM
   Metoprolol - [**2202-9-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-4**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 83 (69 - 108) bpm
   BP: 123/60(77) {94/52(64) - 125/67(82)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 47.5 kg (admission): 44.7 kg
             Total In:
                                                                    580 mL
                                                                     82 mL
   PO:
             TF:
   IVF:
                                                                    330 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                     74 mL
                                                                     96 mL
   Urine:
                                                                     74 mL
                                                                     96 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    506 mL
                                                                    -14 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///24/
   Physical Examination
   Cardiovascular: Gen: NAD able to respond to simple commands
   CV: RRR, Nl S1 and S2
   Resp: bibasilar crackles
   Abd: soft, NT, ND ABS
   Ext: no c/c/e
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   333 K/uL
   9.2 g/dL
   134 mg/dL
   0.8 mg/dL
   24 mEq/L
   5.5 mEq/L
   25 mg/dL
   102 mEq/L
   138 mEq/L
   30.1 %
   14.3 K/uL
        [image002.jpg]
                             [**2202-9-1**]  07:20 PM
                             [**2202-9-2**]  03:28 AM
                             [**2202-9-3**]  04:30 AM
                             [**2202-9-3**]  08:05 PM
                            [**2202-9-4**]  03:31 AM
   WBC
   9.6
   12.2
   14.3
   Hct
   28.3
   30.6
   30.1
   Plt
   247
   259
   333
   Cr
   0.8
   0.7
   0.8
   TropT
   0.50
   0.50
   0.55
   0.75
   Glucose
   119
   103
   134
   Other labs: PT / PTT / INR:17.4/40.2/1.6, CK / CKMB /
   Troponin-T:87/8/0.75, ALT / AST:18/42, Alk Phos / T Bili:127/0.8,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR [**9-3**]: No acute cardiopulmonary findings. Hyperinflation
   consistent with
   COPD. Mild bibasilar fibrosis is unchanged.
   Microbiology: urine, blood cultures pending.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 .H/O CARDIAC DYSRHYTHMIA OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   81 year old female with multiple medical problems including diastolic
   heart failure, atrial flutter, severe AS, COPD, with new multiple
   embolic infarcts, hypoxia, RV hypokinesis, tachypnea.
   .
   1) Altered Mental Status: Likely encephalopathy in setting of recent
   stroke, may also have a contribution from infection. Improved from
   admission. Flat CKs suggest troponin elevation either from stroke or
   more remote cardiac event.
   - continue to provide supportive measures s/p stroke
   - treat pneumonia as below
   - hold
   2) Increased Cough/O2 Requirement: Possible pneumonia
   (community-aquired), vs COPD flare.
   - sputum cultures
   -CTX/Azithromycin to complete 7 day course
   -Continue ipratroprium and albuterol
   -methylprednisolone
   -Titrate oxygen to comfort and O2 sat between 92-94%
   3) Cardiac: Chronic Diastolic Heart Failure/Severe AS/Elevated
   Troponin/Aflutter/HTN: Since last ECHO pt has deterioriating cardiac
   status with increased Aortic insufficiency and RV hypokinesis. ekg may
   have worrisome signs with pseudonormalization of T waves. Flat CKs
   suggest troponin elevation may be from remote cardiac event. ECHO
   suggest completed infarct. Concerned that pt stroke was from a
   showering of cardiac emboli.
   - hold lisinopril to let BP autoregulate (goal SBP 100-140) given may
   not tolerate higher pressure with her severe AS w/ AR.
   - no anticoagulation given risk
   - cont aspirin 81 mg daily
   - lopressor 5mg IV q6h
   .
   4)elevated lactate: [**Month (only) 60**] potentially be from increased work of
   breathing.  Is normotensive making septic shock unlikely.
   -continue antibiotics
   -oxygen supplementation
   5)multiple cerebral infarcts: lovenox 40mg [**Hospital1 **].  sourc of emboli has
   not been found.
   4) Borderline glucose intolerance: Likely more elevated in setting of
   acute stroke.
   -HISS w/ treatment for FSG >200.
   5) Anemia: microcytic with high RDW suggests mixed population. Given
   partial gastrectomy may have B12 deficiency which can affect mental
   status.
   - please check iron studies, B12, folate as pt may need all of these
   repleted. If B12 is low pls give IM injection.
   6) Leukocytosis: neg Urine cx, benign abd exam, on CTX/azithro to
   complete Community Aquired PNA course. [**Month (only) 60**] also be reactive in setting
   of multiple acute strokes.
   - trend and culture pt (sputum, CXR, UA, stool for c. diff) if spikes
   temp <95 for > 100.5
   7)FEN: replete lytes, NPO
   .
   8)Propohylaxis: pneumoboots, lovenox
   .
   9)code: DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2202-9-3**] 06:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:

2202-09-04 09:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, CHF, [**Last Name (un) **], delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Delerium not improved overnight
   24 Hour Events:
   Allergies:
   Codeine
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2202-9-2**] 01:04 PM
   Azithromycin - [**2202-9-3**] 10:13 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2202-9-3**] 05:30 PM
   Enoxaparin (Lovenox) - [**2202-9-3**] 08:00 PM
   Metoprolol - [**2202-9-4**] 12:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2202-9-4**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 84 (69 - 108) bpm
   BP: 112/65(77) {94/52(64) - 125/67(82)} mmHg
   RR: 18 (13 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 47.5 kg (admission): 44.7 kg
             Total In:
                                                                    580 mL
                                                                     95 mL
   PO:
             TF:
   IVF:
                                                                    330 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                     74 mL
                                                                    108 mL
   Urine:
                                                                     74 mL
                                                                    108 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    506 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   333 K/uL
   134 mg/dL
   0.8 mg/dL
   24 mEq/L
   5.5 mEq/L
   25 mg/dL
   102 mEq/L
   138 mEq/L
   30.1 %
   14.3 K/uL
        [image002.jpg]
                             [**2202-9-1**]  07:20 PM
                             [**2202-9-2**]  03:28 AM
                             [**2202-9-3**]  04:30 AM
                             [**2202-9-3**]  08:05 PM
                            [**2202-9-4**]  03:31 AM
   WBC
   9.6
   12.2
   14.3
   Hct
   28.3
   30.6
   30.1
   Plt
   247
   259
   333
   Cr
   0.8
   0.7
   0.8
   TropT
   0.50
   0.50
   0.55
   0.75
   Glucose
   119
   103
   134
   Other labs: PT / PTT / INR:17.4/40.2/1.6, CK / CKMB /
   Troponin-T:87/8/0.75, ALT / AST:18/42, Alk Phos / T Bili:127/0.8,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 .H/O CARDIAC DYSRHYTHMIA OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   81 year old female with multiple medical problems including diastolic
   heart failure, atrial flutter, severe AS, COPD, with new multiple
   embolic infarcts, hypoxia, RV hypokinesis, tachypnea.
   1) Altered Mental Status: Continues to be encephalopathic --> suspect
   delerium in setting of systemic illness.  Leukocytosis lower today.
   2) Increased Cough/O2 Requirement: Treating for CAP with azithro and
   CTX.  Getting steroid course for COPD
   3) CHF: very BNP despite relatively normal looking CXR (though
   emphysema makes interpretation difficult).  Has aortic stenosis as well
   as hypokinetic LV
   4)elevated lactate: [**Month (only) 60**] potentially be from increased work of
   breathing.  Is normotensive making septic shock unlikely.
   -continue antibiotics
   -oxygen supplementation
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2202-9-3**] 06:04 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments: Need to have further discussion with daughter
   re: goals of care
   Code status: DNI (do not intubate)
   Disposition :
   Total time spent: 31 minutes
   Patient is critically ill

2202-09-05 08:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt briefly became short of breath, responded to 2mg morphine and
   nebs.
   Allergies:
   Codeine
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2202-9-4**] 08:00 PM
   Ceftriaxone - [**2202-9-5**] 06:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2202-9-4**] 08:00 PM
   Metoprolol - [**2202-9-5**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-5**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 76 (71 - 84) bpm
   BP: 139/73(89) {94/49(68) - 139/94(103)} mmHg
   RR: 15 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 44.7 kg
             Total In:
                                                                    340 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                    340 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    265 mL
                                                                     80 mL
   Urine:
                                                                    265 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     75 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   364 K/uL
   9.7 g/dL
   119 mg/dL
   0.9 mg/dL
   25 mEq/L
   5.3 mEq/L
   35 mg/dL
   104 mEq/L
   143 mEq/L
   32.3 %
   15.8 K/uL
        [image002.jpg]
                             [**2202-9-1**]  07:20 PM
                             [**2202-9-2**]  03:28 AM
                             [**2202-9-3**]  04:30 AM
                             [**2202-9-3**]  08:05 PM
                            [**2202-9-4**]  03:31 AM
                            [**2202-9-4**]  07:53 AM
                            [**2202-9-5**]  03:07 AM
   WBC
   9.6
   12.2
   14.3
   15.8
   Hct
   28.3
   30.6
   30.1
   32.3
   Plt
   247
   259
   333
   364
   Cr
   0.8
   0.7
   0.8
   0.9
   TropT
   0.50
   0.50
   0.55
   0.75
   0.72
   Glucose
   119
   103
   134
   119
   Other labs: PT / PTT / INR:18.3/33.9/1.7, CK / CKMB /
   Troponin-T:87/8/0.72, ALT / AST:18/42, Alk Phos / T Bili:127/0.8,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   81 year old female with multiple medical problems including diastolic
   heart failure, atrial flutter, severe AS, COPD, with new multiple
   embolic infarcts, hypoxia, RV hypokinesis, tachypnea.
   .
   1) Altered Mental Status: Likely encephalopathy in setting of recent
   stroke, may also have a contribution from infection. Improved from
   admission. Flat CKs suggest troponin elevation either from stroke or
   more remote cardiac event.
   - continue to provide supportive measures s/p stroke  (maintaining BPs)
   - treat pneumonia as below
   2) Increased Cough/O2 Requirement: Possible pneumonia
   (community-aquired), vs COPD flare.
   - sputum cultures
   -CTX/Azithromycin to complete 7 day course
   -Continue ipratroprium and albuterol
   -methylprednisolone
   -Titrate oxygen to comfort and O2 sat between 92-94%
   -doesnt appear volume overloaded
   3) Cardiac: Chronic Diastolic Heart Failure/Severe AS/Elevated
   Troponin/Aflutter/HTN: Since last ECHO pt has deterioriating cardiac
   status with increased Aortic insufficiency and RV hypokinesis. ekg may
   have worrisome signs with pseudonormalization of T waves. Flat CKs
   suggest troponin elevation may be from remote cardiac event. ECHO
   suggest completed infarct. Concerned that pt stroke was from a
   showering of cardiac emboli.
   - hold lisinopril to let BP autoregulate (goal SBP 100-140) given may
   not tolerate higher pressure with her severe AS w/ AR.
   - on lovenox [**Hospital1 **]
   - cont aspirin 81 mg daily
   - lopressor 5mg IV q6h
   .
   4)elevated lactate: [**Month (only) 60**] potentially be from increased work of
   breathing.  Is normotensive making septic shock unlikely.
   -continue antibiotics
   -oxygen supplementation
   3)multiple cerebral infarcts: lovenox 40mg [**Hospital1 **].  sourc of emboli has
   not been found.
   4) Borderline glucose intolerance: Likely more elevated in setting of
   acute stroke.
   -HISS w/ treatment for FSG >200.
   5) Anemia: microcytic with high RDW suggests mixed population. Given
   partial gastrectomy may have B12 deficiency which can affect mental
   status.
   - f/u iron studies, b12, folate
   6) Leukocytosis: neg Urine cx, benign abd exam, on CTX/azithro to
   complete Community Aquired PNA course. [**Month (only) 60**] also be reactive in setting
   of multiple acute strokes.
   - trend and culture pt (sputum, CXR, UA, stool for c. diff) if spikes
   temp <95 for > 100.5
   7)FEN: replete lytes, NPO
   .
   8)Propohylaxis: pneumoboots, lovenox
   .
   9)code: DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2202-9-3**] 06:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:

2202-09-05 10:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Currently saturating in mid-90s on nasal cannula
   Allergies:
   Codeine
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2202-9-4**] 08:00 PM
   Ceftriaxone - [**2202-9-5**] 06:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2202-9-4**] 08:00 PM
   Metoprolol - [**2202-9-5**] 06:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Tachypnea
   Gastrointestinal: No(t) Emesis, No(t) Diarrhea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2202-9-5**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 76 (71 - 81) bpm
   BP: 125/57(75) {94/49(68) - 139/94(103)} mmHg
   RR: 16 (14 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 44.7 kg
             Total In:
                                                                    340 mL
                                                                     88 mL
   PO:
             TF:
   IVF:
                                                                    340 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                    265 mL
                                                                    115 mL
   Urine:
                                                                    265 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     75 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, dysarthric but
   trying to speak and interact more
   Labs / Radiology
   9.7 g/dL
   364 K/uL
   119 mg/dL
   0.9 mg/dL
   25 mEq/L
   5.3 mEq/L
   35 mg/dL
   104 mEq/L
   143 mEq/L
   32.3 %
   15.8 K/uL
        [image002.jpg]
                             [**2202-9-1**]  07:20 PM
                             [**2202-9-2**]  03:28 AM
                             [**2202-9-3**]  04:30 AM
                             [**2202-9-3**]  08:05 PM
                            [**2202-9-4**]  03:31 AM
                            [**2202-9-4**]  07:53 AM
                            [**2202-9-5**]  03:07 AM
   WBC
   9.6
   12.2
   14.3
   15.8
   Hct
   28.3
   30.6
   30.1
   32.3
   Plt
   247
   259
   333
   364
   Cr
   0.8
   0.7
   0.8
   0.9
   TropT
   0.50
   0.50
   0.55
   0.75
   0.72
   Glucose
   119
   103
   134
   119
   Other labs: PT / PTT / INR:18.3/33.9/1.7, CK / CKMB /
   Troponin-T:87/8/0.72, ALT / AST:18/42, Alk Phos / T Bili:127/0.8,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 .H/O CARDIAC DYSRHYTHMIA OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   81 year old female with multiple medical problems including diastolic
   heart failure, atrial flutter, severe AS, COPD, with new multiple
   embolic infarcts, hypoxia, RV hypokinesis, tachypnea.
   1) Altered Mental Status: Encephalopathy slightly improved today - more
   interactive and trying to communicate but dysarthric and still seems
   confused
   2) Increased Cough/O2 Requirement: Treating for CAP with azithro and
   CTX  ([**3-2**] of CTX).  Getting steroid course for COPD - cutting
   methylprednisolone 60mg daily.  Better today
   3) CHF:Has aortic stenosis as well as hypokinetic LV.  High BNP with
   episode of respiratory distress.  Seems compensated at the moment
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2202-9-3**] 06:04 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent:

2202-09-06 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Around 2 PM acutely desatted into the mid 80s.  Was changed over to
   shovel mask with persistent desaturations.  Crackles at bases
   bilaterally.  Moaning but could not endorse chest pain.  Morphine 2 mg
   given, EKG obtained which showed new T wave inversions.  Troponins
   cycled, first set elevated at 0.83 (was .75 at time of stroke). Second
   set stable at 0.85. Cardiology notified; feel this is likely demand
   ischemia.  On lovenox [**Hospital1 **] anyway right now given stroke.  Serial EKGs
   and following enzymes.  Saturations improved on nonrebreather; gas
   shows O2 of 102 on NRB - weaning down to shovel mask.
   -azithromycin should be continued for [**6-4**] day course so didn't
   discontinue (on day 5)
   -switched to PO steroids 60 mg daily for ? COPD exacerbation
   Allergies:
   Codeine
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2202-9-5**] 08:00 PM
   Ceftriaxone - [**2202-9-6**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2202-9-5**] 02:20 PM
   Metoprolol - [**2202-9-6**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-6**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.3
   HR: 81 (70 - 85) bpm
   BP: 116/67(78) {98/47(59) - 140/79(87)} mmHg
   RR: 13 (10 - 19) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.7 kg (admission): 44.7 kg
             Total In:
                                                                    371 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                    371 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    334 mL
                                                                    128 mL
   Urine:
                                                                    334 mL
                                                                    128 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     37 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: 7.52/36/103//6
   PaO2 / FiO2: 258
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   373 K/uL
   9.8 g/dL
   119 mg/dL
   0.9 mg/dL
   25 mEq/L
   5.1 mEq/L
   35 mg/dL
   104 mEq/L
   143 mEq/L
   32.7 %
   17.9 K/uL
        [image002.jpg]
                             [**2202-9-2**]  03:28 AM
                             [**2202-9-3**]  04:30 AM
                             [**2202-9-3**]  08:05 PM
                            [**2202-9-4**]  03:31 AM
                            [**2202-9-4**]  07:53 AM
                            [**2202-9-5**]  03:07 AM
                            [**2202-9-5**]  02:42 PM
                            [**2202-9-5**]  03:32 PM
                            [**2202-9-5**]  10:57 PM
                            [**2202-9-6**]  05:09 AM
   WBC
   12.2
   14.3
   15.8
   17.9
   Hct
   30.6
   30.1
   32.3
   32.7
   Plt
   259
   333
   364
   373
   Cr
   0.7
   0.8
   0.9
   TropT
   0.50
   0.55
   0.75
   0.72
   0.83
   0.85
   TCO2
   30
   Glucose
   103
   134
   119
   Other labs: PT / PTT / INR:18.3/33.9/1.7, CK / CKMB /
   Troponin-T:193/4/0.85, ALT / AST:18/42, Alk Phos / T Bili:127/0.8,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Assessment and Plan
   81 year old female with multiple medical problems including diastolic
   heart failure, atrial flutter, severe AS, COPD, with new multiple
   embolic infarcts, hypoxia, RV hypokinesis, tachypnea.
   .
   1)  Hypoxia - Unclear why desaturated but could have developed some
   acute pulmonary edema secondary to her stenotic aortic valve in setting
   of mild hypertension/tachycardia. Responded to morphine,
   respositioning, and changing to high flow mask. CXR doesn't show any
   clear evidence for congestion, no significant infiltrates suggestive of
   a new, acute parencyhmal process.  An acute coronary event unlikely to
   have caused desat: although transient new T wave inversions seen on EKG
   as well as mild troponin elevation above baseline, likely secondary to
   demand ischemia in setting of her hypoxia and increased work of
   breathing rather than being the causative [**Doctor Last Name **].
   -Continue to wean from high flow mask as tolerated, maintaining O2 sats
   of 92 - 94%
   -continue treatment of possible underlying PNA with ceftriaxone and
   azithromycin to complete 7 day course (now on day 6)
   -day 2 of PO prednisone at 60 mg - continue for 2 more days then taper
   to 20 mg
   -nebs PRN
   -cycling enzymes: troponins steady at 0.83, .85.  Total CKs increased
   but CK-mB fractions not significant.  New T wave inversions in V1-V4
   but likely nonspecific and in setting of demand ischemia.  Cardiology
   aware; already on lovenox [**Hospital1 **] for recent ischemic stroke; doesn't
   require any other anticoagulation or change in management.
   .
   2) Altered Mental Status: Likely encephalopathy in setting of recent
   stroke, may also have a contribution from infection. Improved from
   admission.
   - continue to provide supportive measures s/p stroke  (maintaining BPs)
   - treat pneumonia as above
   .
   3) Cardiac: Chronic Diastolic Heart Failure/Severe AS//HTN: Since last
   ECHO pt has deterioriating cardiac status with increased Aortic
   insufficiency and RV hypokinesis.  Probably affecting respiratory
   status secondary to tenous aortic valve however no overt evidence of
   pulmonary edema.
   -holding lisinopril to let BP autoregulate (goal SBP 100-140) given may
   not tolerate higher pressure with her severe AS w/ AR.
   - lopressor 5mg IV q6h
   .
   4) Recent CVA - Secondary to ischemic stroke, bilateral, affecting PCA,
   MCA, ACA.  Neurology feels current deficits are secondary to
   recrudescence of prior stroke.  Does continue to have some mental
   status changes likely from encephalopathy from recent stroke.  Unclear
   whether embolic or thrombotic but embolic seems more likely given wide
   distribution affected.  Echo does not show any clot.
   -Obtain carotid duplex
   -Continue lovenox 40 mg [**Hospital1 **]
   -continue aspirin 81 mg daily
   -Touch base with Neuro re: outpatient MRI; long-term anticoagulation.
   .
   5 Leukocytosis: Has slowly drifted up over last several days.  Neg
   Urine cx, blood cxs, CXR.  CTX/azithro to complete Community Aquired
   PNA course. Has not been febrile.  Likely secondary to prednisone
   course.
   .
   6) Borderline glucose intolerance: Likely more elevated in setting of
   acute stroke.
   -HISS w/ treatment for FSG >200.
   7) Anemia: microcytic with high RDW suggests mixed population. Given
   partial gastrectomy may have B12 deficiency which can affect mental
   status.
   - f/u iron studies, b12, folate
    .
   8)FEN: replete lytes, NPO
   .
   9)Propohylaxis: pneumoboots, lovenox
   .
   10)code: DNR/DNI
   .
   11) Dispo - to floor pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2202-9-3**] 06:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:

2202-09-06 12:00:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory failure, CHF, CVAs
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had been on high flow mask overnight but now on nasal cannula
   24 Hour Events:
 EKG - At [**2202-9-5**] 02:06 PM
 EKG - At [**2202-9-5**] 07:06 PM
   Had increase O2 requirement yesterday with new precordial lateral TWI
   on EKG
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2202-9-5**] 08:00 PM
   Ceftriaxone - [**2202-9-6**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2202-9-5**] 02:20 PM
   Metoprolol - [**2202-9-6**] 06:10 AM
   Enoxaparin (Lovenox) - [**2202-9-6**] 08:00 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2202-9-6**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 81 (70 - 85) bpm
   BP: 116/92(97) {98/47(59) - 140/92(97)} mmHg
   RR: 15 (10 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.7 kg (admission): 44.7 kg
             Total In:
                                                                    411 mL
                                                                    167 mL
   PO:
             TF:
   IVF:
                                                                    411 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    334 mL
                                                                    240 mL
   Urine:
                                                                    334 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     77 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.52/36/103/29/6
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: No acute distress, moaning
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   373 K/uL
   116 mg/dL
   1.0 mg/dL
   29 mEq/L
   5.5 mEq/L
   45 mg/dL
   105 mEq/L
   143 mEq/L
   32.7 %
   17.9 K/uL
        [image002.jpg]
                             [**2202-9-2**]  03:28 AM
                             [**2202-9-3**]  04:30 AM
                             [**2202-9-3**]  08:05 PM
                            [**2202-9-4**]  03:31 AM
                            [**2202-9-4**]  07:53 AM
                            [**2202-9-5**]  03:07 AM
                            [**2202-9-5**]  02:42 PM
                            [**2202-9-5**]  03:32 PM
                            [**2202-9-5**]  10:57 PM
                            [**2202-9-6**]  05:09 AM
   WBC
   12.2
   14.3
   15.8
   17.9
   Hct
   30.6
   30.1
   32.3
   32.7
   Plt
   259
   333
   364
   373
   Cr
   0.7
   0.8
   0.9
   1.0
   TropT
   0.50
   0.55
   0.75
   0.72
   0.83
   0.85
   0.87
   TCO2
   30
   Glucose
   103
   134
   119
   116
   Other labs: PT / PTT / INR:18.3/33.9/1.7, CK / CKMB /
   Troponin-T:180/4/0.87, ALT / AST:18/42, Alk Phos / T Bili:127/0.8,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 .H/O CARDIAC DYSRHYTHMIA OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   81 year old female with multiple medical problems including diastolic
   heart failure, atrial flutter, severe AS, COPD, with new multiple
   embolic infarcts, hypoxia, RV hypokinesis, tachypnea.
   1) Altered Mental Status: Continues to wax and wane - worse today
   probably in setting of hypoxemia with her recent embolic CVAs.Cont [**Hospital1 **]
   Lovenox.  Carotid U/S
   2) Increased Cough/O2 Requirement: Treating for CAP with azithro and
   CTX  ([**3-2**] of CTX).  Tapering steroid dose.  CHF management difficult as
   below.
   3) CHF:Managment difficult given AS and diastolic dysfunction.  No
   further diuresis for the moment
   4) Decreased urine output: Cr also going up.  Will not give any fluid
   given CHF and hope she auto-regulates
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2202-9-3**] 06:04 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2202-09-07 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - AM BNP was [**Numeric Identifier 1357**]
   - Cardiac enzymes relatively stable, not decreasing
   Allergies:
   Codeine
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2202-9-6**] 08:00 PM
   Ceftriaxone - [**2202-9-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2202-9-6**] 08:00 AM
   Metoprolol - [**2202-9-7**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-7**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 68 (67 - 81) bpm
   BP: 125/58(74) {104/49(65) - 138/92(97)} mmHg
   RR: 12 (11 - 16) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.2 kg (admission): 44.7 kg
   Height: 60 Inch
             Total In:
                                                                    540 mL
                                                                    123 mL
   PO:
             TF:
   IVF:
                                                                    540 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                    517 mL
                                                                    330 mL
   Urine:
                                                                    517 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     23 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   320 K/uL
   9.9 g/dL
   123 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.9 mEq/L
   47 mg/dL
   108 mEq/L
   146 mEq/L
   32.4 %
   16.6 K/uL
        [image002.jpg]
                             [**2202-9-3**]  08:05 PM
                            [**2202-9-4**]  03:31 AM
                            [**2202-9-4**]  07:53 AM
                            [**2202-9-5**]  03:07 AM
                            [**2202-9-5**]  02:42 PM
                            [**2202-9-5**]  03:32 PM
                            [**2202-9-5**]  10:57 PM
                            [**2202-9-6**]  05:09 AM
                            [**2202-9-6**]  07:10 PM
                            [**2202-9-7**]  02:57 AM
   WBC
   14.3
   15.8
   17.9
   16.6
   Hct
   30.1
   32.3
   32.7
   32.4
   Plt
   333
   364
   373
   320
   Cr
   0.8
   0.9
   1.0
   1.0
   0.9
   TropT
   0.75
   0.72
   0.83
   0.85
   0.87
   TCO2
   30
   Glucose
   134
   119
   116
   132
   123
   Other labs: PT / PTT / INR:16.1/40.5/1.4, CK / CKMB /
   Troponin-T:180/4/0.87, ALT / AST:18/42, Alk Phos / T Bili:127/0.8,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   81 year old female with severe aortic stenosis, aflutter who is now s/p
   multiple bilateral embolic infarcts in MCA, ACA, PCA territories with
   mental status change and periodic hypoxia and tachypnea.
   .
   1)  Hypoxia - Patient desaturated two days ago into the mid 80s and
   responded to morphine, high flow mask, and respositioning.  Likely
   flash pulmonary edema, especially given severe AS.  Has tenuous
   hemodynamics and periodic desaturations may be her baseline. Over last
   24 hours has been weaned from high flow mask, now on nasal cannulus.
   Continuing tx of underlying PNA and possible COPD flare may help reduce
   degree of hypoxia.
   -Continue tx of underlying PNA with ceftriaxone and azithro (today is
   day final day of 7 day course)
   -Continue prednisone taper, currently getting 60 mg: tomorrow taper
   down to 20 mg
   -nebs PRN
   -Not a surgical candidate for AS; likely will continue to have periodic
   desaturations, key will be to keep blood pressure controlled and keep
   off fluid, however can't be aggressive w/ diuresis given that she's
   preload dependant.  Getting lopressor 5 mg IV q6 hrs.   BPs have been
   125 - 140.
   .
   2) Troponin elevation - Initially elevated secondary to CVA and have
   been stable at .75.  Following recent desat, enzymes further increased
   but have been stable at .85 with no significant change in CK-MB
   fraction.  Likely experienced some demand ischemia secondary to
   increased work of breathing.
   -Cardiology is aware
   -No change in management given she is already on lovenox [**Hospital1 **] for CVA
   .
   3) Altered Mental Status:  Change from baseline; unclear etiology.
   Likely encephalopathy in setting of recent stroke, may also have a
   contribution from infection as well as steroid course.  Unclear if
   improving.
   - continue to provide supportive measures s/p stroke  (maintaining BPs)
   - treat pneumonia as above
   - continue steroid taper
   .
   4) Recent CVA - Secondary to ischemic stroke, bilateral, affecting PCA,
   MCA, ACA.  Most likely embolic from cardiac origin given widespread,
   bilateral distribution and hx of aflutter.
   -Echo did not show any clot
   -Holding on carotid duplex as would not change management; not a
   surgical candidate
   -Continue lovenox 40 mg [**Hospital1 **]
   -continue aspirin 81 mg daily
   -Touch base with Neuro re: outpatient MRI; long-term anticoagulation.
   .
   5 Leukocytosis: Stable at 16, likely secondary to prednisone course.
   -Follow after steroids are tapered
   .
   6) Borderline glucose intolerance: Likely more elevated in setting of
   acute stroke and prednisone course.
   -HISS w/ treatment for FSG >200.
   .
   7)FEN: replete lytes, NPO
   .
   8)Propohylaxis: pneumoboots, lovenox
   .
   9)code: DNR/DNI
   .
   10) Dispo - to floor pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2202-9-6**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:

2202-09-07 11:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, CHF, CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still moaning consistently, but slightly more interactive
   24 Hour Events:
   Satting in high 90s on 2L nasal cannula
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2202-9-6**] 08:00 PM
   Ceftriaxone - [**2202-9-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2202-9-7**] 06:08 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**11-27**] Minimal
   Flowsheet Data as of  [**2202-9-7**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 77 (67 - 77) bpm
   BP: 123/64(79) {112/49(65) - 138/75(90)} mmHg
   RR: 15 (11 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.2 kg (admission): 44.7 kg
   Height: 60 Inch
             Total In:
                                                                    540 mL
                                                                    165 mL
   PO:
             TF:
   IVF:
                                                                    540 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    517 mL
                                                                    490 mL
   Urine:
                                                                    517 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     23 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, moaning
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), exam difficult due to
   moaning
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: ), exam difficult due to moaning
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, less asymmetric (previously L > R)
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   320 K/uL
   123 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.9 mEq/L
   47 mg/dL
   108 mEq/L
   146 mEq/L
   32.4 %
   16.6 K/uL
        [image002.jpg]
                             [**2202-9-3**]  08:05 PM
                            [**2202-9-4**]  03:31 AM
                            [**2202-9-4**]  07:53 AM
                            [**2202-9-5**]  03:07 AM
                            [**2202-9-5**]  02:42 PM
                            [**2202-9-5**]  03:32 PM
                            [**2202-9-5**]  10:57 PM
                            [**2202-9-6**]  05:09 AM
                            [**2202-9-6**]  07:10 PM
                            [**2202-9-7**]  02:57 AM
   WBC
   14.3
   15.8
   17.9
   16.6
   Hct
   30.1
   32.3
   32.7
   32.4
   Plt
   333
   364
   373
   320
   Cr
   0.8
   0.9
   1.0
   1.0
   0.9
   TropT
   0.75
   0.72
   0.83
   0.85
   0.87
   TCO2
   30
   Glucose
   134
   119
   116
   132
   123
   Other labs: PT / PTT / INR:16.1/40.5/1.4, CK / CKMB /
   Troponin-T:180/4/0.87, ALT / AST:18/42, Alk Phos / T Bili:127/0.8,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 .H/O CARDIAC DYSRHYTHMIA OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   81 year old female with multiple medical problems including diastolic
   heart failure, atrial flutter, severe AS, COPD, with new multiple
   embolic infarcts, hypoxia, RV hypokinesis, tachypnea.
   1) Altered Mental Status: Continues to wax and wane
 better today but
   still no where near baseline.  Cont [**Hospital1 **] Lovenox for CVAs
   2) Increased Cough/O2 Requirement: Completed azithro course.   CTX ([**4-1**]
   of CTX).  Tapering steroid dose.  CHF as primary driver of acute
   changes
   3) CHF:Managment difficult given AS and diastolic dysfunction.  No
   further diuresis for the moment
   4) Decreased urine output: Cr down today.  Urine output stable.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Comments: unable to take pos at the moment
   Glycemic Control:
   Lines:
   22 Gauge - [**2202-9-6**] 01:38 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2202-09-08 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - brief family discussion, no acceleration of care, no decision on
   nutition or ICU status
   Allergies:
   Codeine
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2202-9-6**] 08:00 PM
   Ceftriaxone - [**2202-9-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2202-9-8**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-8**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.6
   HR: 71 (61 - 77) bpm
   BP: 107/54(67) {107/53(67) - 139/74(86)} mmHg
   RR: 16 (11 - 16) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.5 kg (admission): 44.7 kg
   Height: 60 Inch
             Total In:
                                                                    519 mL
                                                                    239 mL
   PO:
             TF:
   IVF:
                                                                    519 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    235 mL
   Urine:
                                                                    920 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -401 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   318 K/uL
   10.0 g/dL
   134 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.6 mEq/L
   40 mg/dL
   109 mEq/L
   149 mEq/L
   32.6 %
   13.7 K/uL
        [image002.jpg]
                            [**2202-9-4**]  03:31 AM
                            [**2202-9-4**]  07:53 AM
                            [**2202-9-5**]  03:07 AM
                            [**2202-9-5**]  02:42 PM
                            [**2202-9-5**]  03:32 PM
                            [**2202-9-5**]  10:57 PM
                            [**2202-9-6**]  05:09 AM
                            [**2202-9-6**]  07:10 PM
                            [**2202-9-7**]  02:57 AM
                            [**2202-9-8**]  01:57 AM
   WBC
   14.3
   15.8
   17.9
   16.6
   13.7
   Hct
   30.1
   32.3
   32.7
   32.4
   32.6
   Plt
   333
   364
   373
   320
   318
   Cr
   0.8
   0.9
   1.0
   1.0
   0.9
   0.8
   TropT
   0.72
   0.83
   0.85
   0.87
   TCO2
   30
   Glucose
   134
   119
   116
   132
   123
   134
   Other labs: PT / PTT / INR:14.5/37.2/1.3, CK / CKMB /
   Troponin-T:180/4/0.87, ALT / AST:18/42, Alk Phos / T Bili:127/0.8,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   81 year old female with severe aortic stenosis, aflutter who is now s/p
   multiple bilateral embolic infarcts in MCA, ACA, PCA territories with
   mental status change and periodic hypoxia and tachypnea.
   .
   1)  Hypoxia - Patient desaturated two days ago into the mid 80s and
   responded to morphine, high flow mask, and respositioning.  Likely
   flash pulmonary edema, especially given severe AS.  Has tenuous
   hemodynamics and periodic desaturations may be her baseline. Over last
   24 hours has been weaned from high flow mask, now on nasal cannulus.
   Continuing tx of underlying PNA and possible COPD flare may help reduce
   degree of hypoxia.
   -Abx course complete, make sure D/C
   -Taper prednisone down to 20 mg
   -nebs PRN
   -Not a surgical candidate for AS; likely will continue to have periodic
   desaturations, key will be to keep blood pressure controlled and keep
   off fluid, however can't be aggressive w/ diuresis given that she's
   preload dependant.  Getting lopressor 5 mg IV q6 hrs.   BPs have been
   125 - 140.
   .
   2) Troponin elevation - Initially elevated secondary to CVA and have
   been stable at .75.  Following recent desat, enzymes further increased
   but have been stable at .85 with no significant change in CK-MB
   fraction.  Likely experienced some demand ischemia secondary to
   increased work of breathing.
   -Cardiology is aware
   -No change in management given she is already on lovenox [**Hospital1 **] for CVA
   .
   3) Altered Mental Status:  Change from baseline; unclear etiology.
   Likely encephalopathy in setting of recent stroke, may also have a
   contribution from infection as well as steroid course.  Unclear if
   improving.
   - continue to provide supportive measures s/p stroke  (maintaining BPs)
   - treat pneumonia as above
   - continue steroid taper
   .
   4) Recent CVA - Secondary to ischemic stroke, bilateral, affecting PCA,
   MCA, ACA.  Most likely embolic from cardiac origin given widespread,
   bilateral distribution and hx of aflutter.
   -Echo did not show any clot
   -Holding on carotid duplex as would not change management; not a
   surgical candidate
   -Continue lovenox 40 mg [**Hospital1 **]
   -continue aspirin 81 mg daily
   -Touch base with Neuro re: outpatient MRI; long-term anticoagulation.
   .
   5 Leukocytosis: Stable at 13, likely secondary to prednisone course.
   -Follow after steroids are tapered
   .
   6) Borderline glucose intolerance: Likely more elevated in setting of
   acute stroke and prednisone course.
   -HISS w/ treatment for FSG >200.
   .
   7)FEN: replete lytes, NPO
   .
   8)Propohylaxis: pneumoboots, lovenox
   .
   9)code: DNR/DNI
   .
   10) Dispo - to floor pending above; discussed prognosis with daughter;
   she needs a little bit of time to think about goals of care; will
   communicate with her again today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2202-9-6**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:

2202-09-08 11:55:00 Physician Attending Progress Note
Chief Complaint: CHF, Respiratory Failure, CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More alert this AM
   24 Hour Events:
   On 2L NC overnight
   Allergies:
   Codeine
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2202-9-6**] 08:00 PM
   Ceftriaxone - [**2202-9-7**] 06:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2202-9-8**] 06:07 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2202-9-8**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 74 (61 - 76) bpm
   BP: 107/54(67) {107/53(67) - 139/67(82)} mmHg
   RR: 12 (11 - 16) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.5 kg (admission): 44.7 kg
   Height: 60 Inch
             Total In:
                                                                    519 mL
                                                                    356 mL
   PO:
             TF:
   IVF:
                                                                    519 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                    920 mL
                                                                    295 mL
   Urine:
                                                                    920 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -401 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, mental status
   improved today
   Labs / Radiology
   10.0 g/dL
   318 K/uL
   134 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.6 mEq/L
   40 mg/dL
   109 mEq/L
   149 mEq/L
   32.6 %
   13.7 K/uL
        [image002.jpg]
                            [**2202-9-4**]  03:31 AM
                            [**2202-9-4**]  07:53 AM
                            [**2202-9-5**]  03:07 AM
                            [**2202-9-5**]  02:42 PM
                            [**2202-9-5**]  03:32 PM
                            [**2202-9-5**]  10:57 PM
                            [**2202-9-6**]  05:09 AM
                            [**2202-9-6**]  07:10 PM
                            [**2202-9-7**]  02:57 AM
                            [**2202-9-8**]  01:57 AM
   WBC
   14.3
   15.8
   17.9
   16.6
   13.7
   Hct
   30.1
   32.3
   32.7
   32.4
   32.6
   Plt
   333
   364
   373
   320
   318
   Cr
   0.8
   0.9
   1.0
   1.0
   0.9
   0.8
   TropT
   0.72
   0.83
   0.85
   0.87
   TCO2
   30
   Glucose
   134
   119
   116
   132
   123
   134
   Other labs: PT / PTT / INR:14.5/37.2/1.3, CK / CKMB /
   Troponin-T:180/4/0.87, ALT / AST:18/42, Alk Phos / T Bili:127/0.8,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 .H/O CARDIAC DYSRHYTHMIA OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   81 year old female with multiple medical problems including diastolic
   heart failure, atrial flutter, severe AS, COPD, with new multiple
   embolic infarcts, hypoxia, RV hypokinesis, tachypnea.
   1) Altered Mental Status: Improved today - but not back near baseline.
   2) Increased Cough/O2 Requirement/CHF:  CTX ([**5-2**] of CTX).  Tapering
   steroid dose.  CHF as primary driver of acute changes.  Compensated for
   moment with respect to CHF but with minimal reserve.
   Will transfer back to the floor.  Have discussed with the patient
   daughter, who is understanding of the patient
s high potential to
   decompensate again.  However, she would like to continue to pursue
   current management for the time being.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2202-9-6**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI (do not intubate)